US07705047B2
21.56 g of 4-(2,4-dichlorophenoxy)-3-hydroxybenzonitrile, 14.2 g of chloroacetone, 12.8 g of potassium carbonate and 170 mg of potassium iodide are dissolved in 300 ml of acetone and boiled under reflux for 5 h. After cooling, the precipitate is filtered, concentrated by evaporation, redissolved in ethylacetate and washed with a 1N aqueous solution of sodium hydroxide, water, a 1N aqueous solution of hydrogen chloride and finally with brine. The organic phase is dried over magnesium sulfate and evaporated. The residue is recrystallized from ethylacetate/hexane to yield 4-(2,4-dichlorophenoxy)-3-(2-oxopropoxy)-benzonitrile.

reactant | 4-(2,4-dichlorophenoxy)-3-hydroxybenzonitrile | 21.56 g | ClC1=C(OC2=C(C=C(C#N)C=C2)O)C=CC(=C1)Cl | C13H7Cl2NO2
reactant | chloroacetone | 14.2 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 12.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 170 mg | [I-].[K+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-(2,4-dichlorophenoxy)-3-(2-oxopropoxy)-benzonitrile | ClC1=C(OC2=C(C=C(C#N)C=C2)OCC(C)=O)C=CC(=C1)Cl | C16H11Cl2NO3
